US04213985
A warm solution of 6.0 g of 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one in 12 ml of dimethylacetamide and 40 ml of ethanol was added dropwise with stirring to a refluxing solution of 8.6 g of piperazine in 50 ml of ethanol. Then, the reaction mixture was refluxed for 1 hour and the mixture was evaporated to dryness in vacuo. The residue was chromatographed over silica gel and the eluent was then evaporated to dryness in vacuo. The residue was crystallized from acetonitrile to obtain a 70% yield of 5,11-dihydro-11-[3-(1-piperazinyl)-propionyl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one with a melting point of 280°-282° C. with decomposition.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 6.0 g | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | piperazine | 8.6 g | N1CCNCC1 | C4H10N2
solvent | dimethylacetamide | 12 ml | CC(=O)N(C)C | C4H9NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,11-dihydro-11-[3-(1-piperazinyl)-propionyl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 70% yield | N1(CCNCC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C19H21N5O2
